US08431695B2
Preparation of 5-(2-benzyl-2H-indazol-6-yl)-7-(1-cyclopropylpiperidin-4-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine
To a solution of 5-(2-benzyl-2H-indazol-6-yl)-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine (85 mg, 0.20 mmol) in MeOH (2.25 mL) containing 3 Å molecular sieves was added AcOH (114 μL, 2.00 mmol), [(1-ethoxycyclopropyl)oxy]trimethylsilane (241 μL, 1.20 mmol) and sodium cyanoborohydride (57 mg, 0.90 mmol). The reaction was stirred at 60° C. for 17 h. The mixture was quenched with the addition of saturated, aqueous NaHCO3 (10 mL) and was extracted with EtOAc (3×15 mL). The combined organic layers were washed with brine, dried (Na2SO4) and concentrated. The residue was purified by preparative HPLC using a gradient elution from 15% to 45% acetonitrile in water followed by filtration through an acidic resin, washing with MeOH. The product was eluted with 2M NH3 in MeOH and the filtrate was concentrated to provide 47 mg (51%) of the desired product. 1H NMR (400 MHz, DMSO-d6) δ 825 (s, 1 H), 7.60 (s, 1 H), 7.50 (d, 1 H), 7.28 (s, 1 H), 6.98-7.08 (m, 5 H), 6.84 (dd, 1 H), 6.27 (s, 1 H), 5.35 (s, 2 H), 3.04 (s, 2 H), 2.72 (s, 2 H), 1.99 (s, 2 H), 1.66 (s, 2 H), 1.27-1.38 (m, 2 H), 0.13 (s, 1 H), 0.11 (d, 1 H), −0.03-0.03 (m, 2 H); ES-MS m/z 464.32 [M+H]+, HPLC RT (min) 1.24.

reactant | 5-(2-benzyl-2H-indazol-6-yl)-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine | 0.20 mmol, 85 mg | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CCNCC2 | C25H25N7
reactant | AcOH | 2.00 mmol, 114 μL | CC(=O)O | C2H4O2
reactant | [(1-ethoxycyclopropyl)oxy]trimethylsilane | 1.20 mmol, 241 μL | C(C)OC1(CC1)O[Si](C)(C)C | C8H18O2Si
reactant | sodium cyanoborohydride | 0.90 mmol, 57 mg | C(#N)[BH3-].[Na+]
solvent | MeOH | 2.25 mL | CO | CH4O
product | 5-(2-benzyl-2H-indazol-6-yl)-7-(1-cyclopropylpiperidin-4-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine | 47 mg, 51% | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CCN(CC2)C2CC2 | C28H29N7
